US05216156
2-(Oxiranylmethoxy)-4,6-bis[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine
The title compound is prepared by the reaction of 2-chloro-4,6-bis[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine with sodium hydroxide and 3-chloro-1,2-propanediol.

reactant | 2-chloro-4,6-bis[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine | ClC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C45H86ClN7O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3-chloro-1,2-propanediol | ClCC(CO)O | C3H7ClO2
product | 2-(Oxiranylmethoxy)-4,6-bis[N-(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine | O1C(C1)COC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)NCCCCC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C48H91N7O4
